US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-diethylamide
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were introduced portionwise, while stirring at room temperature, into a solution of 20 g of diethylamine in 0.4 l of tetrahydrofurane. After the addition had been completed, the mixture was stirred for another 30 minutes at room temperature, and subsequently the tetrahydrofurane was completely eliminated in vacuo. The evaporation residue crystallized when triturated with 0.2 l of water, and, after having been suction-filtered and dried, it was recrystallized from butylacetate.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | diethylamine | 20 g | C(C)NCC | C4H11N
solvent | tetrahydrofurane | 0.4 l | O1CCCC1 | C4H8O
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-diethylamide | C(C)N(C(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O)CC | C18H30N4O3S
